US07456315B2
2-(N′-benzyloxycarbonyl-hydrazino)-2-methyl-propionic acid ethyl ester (28 g, 0.1 mol) was dissolved in 50 mL CH2Cl2 and cooled on ice. A solution of 20.7 g K2CO3 in 30 mL of water was added. A solution of 3,5-dimethylbenzoyl chloride (17 g, 0.1 mol) in 50 mL of CH2Cl2 was added drop-wise over a period of 1 hour, maintaining the temperature at 0-5° C. The mixture was stirred for 1 hour on an ice bath, and then at room temperature overnight. TLC indicated the reaction was complete. The aqueous layer was removed in a separatory funnel and the organic phase was washed with water and then brine, and then dried over Na2SO4. The solvent was removed on a rotary evaporator. The residue was slurried in hexane, filtered, and then air-dried. 2-[N′-Benzyloxycarbonyl-N-(3,5-dimethyl-benzoyl)-hydrazino]-2-methyl-propionic acid ethyl ester was obtained as a white solid (35 g), giving a single spot by TLC. 1H NMR (300 MHz, CDCl3) δ (ppm): 7.4 (s, 1H), 7.3 (m, 3H), 7.15 (m, 2H), 7.1 (s, 2H), 7.0 (s, 1H), 5.2 (d, 1H), 5.0 (d, 1H), 4.2 (m, 2H), 2.25 (s, 6H), 1.78 (s, 3H), 1.64 (s, 3H), 1.28 (t, 3H).

reactant | 2-(N′-benzyloxycarbonyl-hydrazino)-2-methyl-propionic acid ethyl ester | 0.1 mol, 28 g | C(C)OC(C(C)(C)NNC(=O)OCC1=CC=CC=C1)=O | C14H20N2O4
reactant | K2CO3 | 20.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dimethylbenzoyl chloride | 0.1 mol, 17 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[N′-Benzyloxycarbonyl-N-(3,5-dimethyl-benzoyl)-hydrazino]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)N(NC(=O)OCC1=CC=CC=C1)C(C1=CC(=CC(=C1)C)C)=O)=O | C23H28N2O5
